US04941911
While stirring vigorously and exposing to light from a 300 watt incandescent lamp, a solution of 80.0 g of bromine in 400 ml of dichloromethane is dripped into a solution of 105 g of 1-(3'-methylphenyl)-4,5-dimethoxypyridazin-6-one and 51.6 g of sodium acetate in 1.5 liters of dichloromethane and 500 ml of water. The dichloromethane is then separated off and the remainder is washed with a sodium carbonate solution and concentrated. There is obtained 124 g of 1-(3'-bromomethylphenyl)-4,5-dimethoxypyridazin-6-one of m.p. 67°-69° C. and a purity of 90%.

reactant | bromine | 80.0 g | BrBr | Br2
reactant | 1-(3'-methylphenyl)-4,5-dimethoxypyridazin-6-one | 105 g | CC=1C=C(C=CC1)N1N=CC(=C(C1=O)OC)OC | C13H14N2O3
reactant | sodium acetate | 51.6 g | C(C)(=O)[O-].[Na+]
solvent | dichloromethane | 400 ml | ClCCl | CH2Cl2
solvent | dichloromethane | 1.5 liters | ClCCl | CH2Cl2
solvent | water | 500 ml | O | H2O
product | 1-(3'-bromomethylphenyl)-4,5-dimethoxypyridazin-6-one | 124 g | BrCC=1C=C(C=CC1)N1N=CC(=C(C1=O)OC)OC | C13H13BrN2O3
